US09388189B2
(S)-4-Methoxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide
(S)-4-Methoxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide (25 mg, 0.02 mmol) was treated with trifluoroacetic acid (500 μl, 6.49 mmol) and a solution of ammonia (7N in methanol, 500 μl, 3.50 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 100% n-hexane-ethyl acetate) to obtain 13 mg (86% yield) of the title compound.

reactant | (S)-4-Methoxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide | 0.02 mmol, 25 mg | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C40H44N8O5SSi
reactant | trifluoroacetic acid | 6.49 mmol, 500 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 3.50 mmol, 7N, 500 μl | N | H3N
product | (S)-4-Methoxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide | 13 mg, 86% yield | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C34H30N8O4S
